US07517873B2
To a cooled mixture of 1.57 g (0.00529 mole) of (rac)-2-chloro-7-methyl-9-(tetrahydro-pyran-4-yl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-45), 0.49 mL (0.00794 mole) of iodomethane and 15 mL of N,N-dimethyl-formamide at 0 degrees was added 0.32 g (0.00794 mole) of 60% oil dispersion of sodium hydride. The mixture was stirred at 0 degrees for 2 hours and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-60:40) to give 1.64 g of (rac)-2-chloro-5,7-dimethyl-9-(tetrahydro-pyran-4-yl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-45) as white powder. HRMS (ES+) m/z Calcd for C14H19CIN4O2+H [(M+H)+]: 311.1270. Found: 311.1269.

reactant | (rac)-2-chloro-7-methyl-9-(tetrahydro-pyran-4-yl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00529 mole, 1.57 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCOCC2)N1 | C13H17ClN4O2
reactant | iodomethane | 0.00794 mole, 0.49 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethyl-formamide | 15 mL | CN(C=O)C | C3H7NO
product | (rac)-2-chloro-5,7-dimethyl-9-(tetrahydro-pyran-4-yl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.64 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCOCC2)N1 | C14H19ClN4O2
